US07179822B2
Step (a): {4-[5-(3-bromophenyl)tetrazol-2-ylmethyl]phenoxy}acetic acid tert-butyl ester
This reaction was carried out as described in Example D2, Step (a) using 5-(3-bromophenyl)-2H-tetrazole (0.87 g, 2.89 mmol) and (4-bromomethylphenoxy) acetic acid tert-butyl ester (0.50 g, 2.22 mmol) in place of (4-bromo-methylbenzyl) phosphonic acid dimethyl ester. This afforded 0.85 g of light oil (84.6% yield) NMR (CDCl3); 8.28 (s, 1H), 8.07–8.05 (d, 1H), 7.58–7.55 (d, 1H), 7.38–7.31 (m, 3H), 6.90–6.88 (d, 2H), 5.72 (s, 2H), 4.50 (s, 2H), 1.48 (s, 9H)

reactant | 5-(3-bromophenyl)-2H-tetrazole | 2.89 mmol, 0.87 g | BrC=1C=C(C=CC1)C=1N=NNN1 | C7H5BrN4
reactant | (4-bromomethylphenoxy) acetic acid tert-butyl ester | 2.22 mmol, 0.50 g | C(C)(C)(C)OC(COC1=CC=C(C=C1)CBr)=O | C13H17BrO3
product | {4-[5-(3-bromophenyl)tetrazol-2-ylmethyl]phenoxy}acetic acid tert-butyl ester | 84.6% yield | C(C)(C)(C)OC(COC1=CC=C(C=C1)CN1N=C(N=N1)C1=CC(=CC=C1)Br)=O | C20H21BrN4O3
